US04618683
5,6-Dimethoxy-8-methyl-1-tetralone
A mixture of 4-(2,3-dimethoxy-5-methylphenyl)butyric acid (50.7 g, 0.21 mole) and methanesulfonic acid (507 g, 355 mL) was stirred at 0° for 1 hour and overnight at room temperature. The reaction mixture was poured onto ice, and the solution was extracted with CH2Cl2. The combined CH2Cl2 layers were washed with 1N KOH, water, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated to yield 20.2 g tan solid, (44%); mp 58°-62°; M+ 204.

reactant | 4-(2,3-dimethoxy-5-methylphenyl)butyric acid | 0.21 mole, 50.7 g | COC1=C(C=C(C=C1OC)C)CCCC(=O)O | C13H18O4
reactant | methanesulfonic acid | 355 mL, 507 g | CS(=O)(=O)O | CH4O3S
product | 5,6-Dimethoxy-8-methyl-1-tetralone | 20.2 g, 44% | COC1=C2CCCC(C2=C(C=C1OC)C)=O | C13H16O3
